*$
* UC1846
*****************************************************************************
* (C) Copyright 2010 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warrenties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model was developed for Texas Instruments Incorporated by:
*   AEi Systems, LLC
*   5933 W. Century Blvd., Suite 1100
*   Los Angeles, California  90045
*
* This model is subject to change without notice. Neither Texas Instruments Incorporated 
* nor AEi Systems is responsible for updating this model.
* For more information regarding modeling services, model libraries and simulation 
* products, please call AEi Systems at (310) 216-1144, or contact AEi Systems by email: 
* info@AENG.com. Or visit AEi Systems on the web at http://www.AENG.com.
*
*****************************************************************************
*
** Released by: Analog eLab Design Center, Texas Instruments Inc.
* Part: UC1846
* Date: 05/28/2010
* Model Type: Transient
* Simulator: PSPICE
* Simulator Version: 16.0.0.p001
* Datasheet: SLUS352A JANUARY 1997 REVISED MARCH 2002
*
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web.
*
*****************************************************************************
.SUBCKT UC1846 ILIM VREF CSNEG CSPOS EAPOS EANEG COMP CT RT 
+ SYNC AOUT GND VC BOUT VIN SD
Q3 GND NODE35 COMP _QP
R22 NODE50 GND 3.58K
V4 NODE23 NODE18 0
GB1 GND CT Value={ IF ( V(SYNC) > 2.5 & V(VREF) > 4.35 , 
+ -0.013 , 0 ) }
E5 NODE25 GND CSPOS CSNEG 3
S1 VREF NODE34 CT GND _S1_MOD
GB8 GND NODE28 Value={ IF ( V(SD)>0.35 , 150U , 0 ) }
S2 VIN NODE33 VIN GND _S2_MOD
R23 SD GND 6K
EBE1 NODE23 GND Value={ IF ( V(VIN,GND)>7.1 , 5.1 , 
+ IF ( V(VIN,GND)<2 , 0 , (V(VIN,GND)-2) ) ) }
Q1 VREF NODE34 SYNC QMOD
R7 GND NODE34 150K
EBE4 NODE26 GND Value={ IF ( V(SYNC)>3 , 10 , 0 ) }
R20 NODE37 NODE35 10K
GB4 VIN GND Value={I(V4)}
R9 NODE34 VREF 100K
R21 ILIM NODE35 1K
D6X COMP 21 DMOD
R10 SYNC GND 10K
R19 COMP ILIM 1MEG
R5 NODE33 0 100K
R16X NODE32 GND 100K
D5 NODE29 NODE27 DMOD
R3 NODE18 VREF 0.33
X9 NODE26 NODE13 GND GND NODE13 NODE14 FFLOP380X 
EBE9 NODE36 GND Value={ if ( V(Node28) > 0.6, 5,  
+ if (V(Node50) > 0.6, 5, IF( V(Node29)>3.5, 5,0))) }
V5 21 NODE32 DC=0.5
R2 VIN GND 882
R1 GND NODE18 300
C2 NODE29 GND 2.00P
R25 NODE27 NODE29 100K
EBECOMP NODE27 GND Value={ IF ( V(NODE25) > V(NODE32) ,  5  ,  0 ) }
X2 VC GND NODE19 BOUT 1846OUT 
X3 VREF GND EAPOS EANEG COMP 1846AMP 
X10 GND GND NODE36 NODE26 NODE31 NODE30 FFLOP380X 
GB3 GND CT Value={ IF ( V(VREF) > 4.35 , I(V2) , 0 ) }
X1 VC GND NODE20 AOUT 1846OUT
S3 CT GND VREF GND _S3_MOD
D1 VREF 29 D2
V2 NODE11 RT 0
D6 29 NODE11 D2
EBE6 NODE19 GND Value={ IF ( V(NODE14)>2.5 & V(NODE26)<2.5 & 
+ V(NODE33) >5 & V(NODE31)<2.5 , 10 , 0 ) }
EBE7 NODE20 GND Value={ IF ( V(NODE13)>2.5 & V(NODE26)<2.5 & 
+ V(NODE33) >3.5 & V(NODE31)<2.5 , 10 , 0 ) }
Q7 NODE35 NODE28 GND QMOD
*Q4 NODE28 NODE37 ILIM _Q4_MOD
Q4 NODE50 NODE37 ILIM _Q4_MOD
Q9 NODE37 NODE50 GND QMOD
.MODEL _QP PNP
.MODEL _S1_MOD VSWITCH RON=0.01 ROFF=1MEG VT=2.06 VH=0.88 
.MODEL _S2_MOD VSWITCH RON=0.01 ROFF=1MEG VT=7.32 VH=0.375
.MODEL _S3_MOD VSWITCH RON=100MEG ROFF=10K VT=2.5 VH=0
.MODEL QMOD NPN
.MODEL DMOD D
.MODEL D2 D BV=2.1 IBV=1M RS=250
.MODEL _Q4_MOD PNP CJC=0.1P CJE=10P
.ENDS
*$
.SUBCKT FFLOP380X 1  2 11 12 5  6
*                CLK D R  S  QB Q
X1 7 4 2 8 NAND3_03895 
X2 8 3 10 9 NAND3_03895 
X3 1 8 10 7 NAND3_13895 
X4 4 9 1 10 NAND3_03895 
X5 4 7 6 5 NAND3_13895 
X6 5 10 3 6 NAND3_03895 
X7 11 4 INV_13895
X8 12 3 INV_13895
.ENDS 
*$
.SUBCKT NAND3_03895 1 2 3 4
E1 5 0 VALUE = { IF ( (V(1)>2.5) & (V(2)>2.5) & (V(3)>2.5), 0, 5 ) }
R1 5 4 10
C1 4 0 10P IC=0
.ENDS
*$
.SUBCKT NAND3_13895 1 2 3 4
E1 5 0 VALUE = { IF ( (V(1)>2.5) & (V(2)>2.5) & (V(3)>2.5), 0, 5 ) }
R1 5 4 10
C1 4 0 10P IC=5
.ENDS
*$
.SUBCKT INV_13895 1 2
E1 3 0 VALUE = { IF ( V(1)>2.5, 0, 5 ) }
R1 3 2 10
C1 2 0 10P IC=5
.ENDS
*$
.SUBCKT 1846OUT  4  7  3  12
*                +V -V IN OUT
I3 4 8 100U
D3 8 4 DMOD
D4 12 8 DMOD
Q3 8 1 9 QIN
Q4 12 9 7 QMOD
Q5 4 8 6 QMOD
I4 7 1 .9M
R1 3 2 10K
Q8 1 2 7 QIN
Q2 4 6 12 QMOD2
.ENDS
.MODEL QMOD NPN RC=1.5 RE=.5 RB=100 
.MODEL QMOD2 NPN
.MODEL QIN NPN BF=100 BR=2 IS=1E-16 VAF=50 
+ CJE=1.5P CJC=.25P TR=1N TF=3N
.MODEL DMOD D RS=1 IS=0.4U
*$
.SUBCKT 1846AMP 4   11  12   1   9
*              VCC GND NINV INV OUT
R2 12 11 8MEG
R3 6 11 1G
C1 6 11 14P
E1 5 11 6 0 1
R4 1 11 8MEG
I2 4 9 .5M
R6 0 15 300
D11 9 14 DMOD
Q1 11 13 14 QPMOD
I3 13 11 65U
D14 15 13 DMOD
D15 11 6 DCLAMP
L1 3 15 10U
C2 15 11 200P
R9 5 3 5
C5 3 11 .02U
G1 11 6 12 1 100U
.MODEL QPMOD PNP
.MODEL DCLAMP D (RS=10 BV=4 IBV=.01)
.MODEL DMOD D
.ENDS
*$
.SUBCKT XFMRAUX 1    2    3     4     10    
+ 11  PARAMS: RATIO_POW=1 RATIO_AUX=1
*Connections     +Pri -Pri +SecP -SecP +SecA -SecA
*Parameters:
* Ratio = Secondary/Primary turns ratio
*
*  1_______   _______3
*    +     ) (          A VsPower
*          ) (_______4   
*    VPrim )  _______10
*          ) (
*    -     ) (          B VsAux
*  2_______) (_______11
*
*  RATIO_POW = 1:A
*  RATIO_AUX = 1:B
*
Rpri 1 2 1MEG
E1 5 4 Value={RATIO_POW*V(1,2)}
G1 1 2 Value={RATIO_POW*I(Vvs)}
Ra 6 3 1U
Vvs 5 6
E2 20 11 Value={RATIO_AUX*V(2,1)}
G2 2 1 Value={RATIO_AUX*I(Vaux)}
Rb2 21 10 1U
Vaux 20 21 
.ENDS
*$
.MODEL MUR110rl D
+ IS=9.82502e-09 N=1.57715 RS=0.0304421
+ CJO=5.37397E-11 M=.55676 VJ=1.24876 ISR=0 NR=4.9950 BV=100 IBV=2u
+ TT=1.63843E-8
*$
.SUBCKT 10TQ045 1 2
LS 3 2 8p ; 8n
D1 1 3 10TQ045mod
.MODEL 10TQ045mod D (IS=9.81804E-08 RS=0.00739225 ISR=10.010E-21 NR=4.9950 BV=45.0  IBV=0.0001
+ CJO=1.42434E-09 M=0.479175 VJ=1.5 N=0.993075 TT=0)
.ENDS
*$
.SUBCKT IRF520    9  60 14
*     TERMINALS:  D  G  S
M1 9 6 14 14 _M520 
.MODEL _M520 NMOS KP=17.6091 RD=0.1 RS=0.0612421 VTO=3.3
RG 60 6 1
C5 6 14 300p
C6 6 9 30p
C7 9 14 20p
DSD 14 9 DSUB
.MODEL DSUB D (N=1.15 RS=0.01)
.ENDS
*$
.SUBCKT XFMR 1 2 3 4 PARAMS: RATIO=1
* SINGLE WINDING TRANSFORMER 
Rpar 1 2 1MEG
Ea 5 4 VALUE = { V(1,2)*RATIO }
Ga 1 2 VALUE = { I(VMa)*RATIO }
Rser 6 3 1U
VMa 5 6 
RP2 5 0 100Meg
RP3 6 0 100Meg
.ENDS XFMR
*$

