* Closed-loop regulator fixture for .bode integration coverage.
VREF ref 0 0.5
BDRIVE drive 0 V={60*(V(ref)-V(fb))+5}
RPASS drive out 1
COUT out 0 47u
RLOAD out 0 100
VPERT out fb_top 0
RTOP fb_top fb 90k
RBOT fb 0 10k
.end