* Operating point fixture for Phase 6 coverage.
V1 in 0 10
R1 in out 1k
D1 out 0 DTEST
M1 out in 0 0 NMOS
.model DTEST D(IS=1e-14 N=1)
.model NMOS NMOS (VTO=2 KP=1m LAMBDA=0.02)
.option KEEPOPINFO
.option SAVEPOWERS
.op
.end